US06552013B1
Preparation of N-(3-methyl-2-(S)-(2-trimethylsilylethyloxy)methyloxybutyl)-L-alanine, methyl ester
3-methyl-2-(S)-(2-trimethylsilylethyloxy)methyloxybutanal (1.0 eq) was stirred in methanol at room temperature with L-Alanine, methyl ester (0.8 eq; Bachem). Sodium cyanoborohydride (0.5 eq) was added to the solution, and the reaction was stirred for 17 hours. The reaction was made alkaline by addition of aqueous saturated NaHCO3 solution. The mixture was extracted with dichloromethane, dried over sodium sulfate, and concentrated in vacuo. The residue was purified via radial chromatography using 20% ethyl acetate in hexanes to afford the title intermediate as a colorless oil.

reactant | 3-methyl-2-(S)-(2-trimethylsilylethyloxy)methyloxybutanal | 1.0 eq | CC([C@@H](C=O)OCOCC[Si](C)(C)C)C | C11H24O3Si
reactant | L-Alanine, methyl ester | 0.8 eq | N[C@@H](C)C(=O)OC | C4H9NO2
reactant | Sodium cyanoborohydride | 0.5 eq | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | CO | CH4O
product | N-(3-methyl-2-(S)-(2-trimethylsilylethyloxy)methyloxybutyl)-L-alanine, methyl ester | CC([C@@H](CN[C@@H](C)C(=O)OC)OCOCC[Si](C)(C)C)C | C15H33NO4Si
